US06737417B2
Ethyl 11-[17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl]-2-(4,4,5,5,5-pentafluoropentyl)undecanoate (946 mg, 1.43 mmol) was dissolved in dichloromethane (18 ml). To this solution, a 1M solution of borane tribromide in dichloromethane (4.3 ml, 4.3 mmol) was added dropwise at −78° C. The reaction mixture was warmed slowly and stirred for 3 hours at 0° C. Water was added to stop the reaction and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and then filtered. After concentration under reduced pressure, the resulting residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=2/1) to give ethyl 11-[3,17β-dihydroxyestra-1,3,5(10)-trien-7α-yl]-2-(4,4,5,5,5-pentafluoropentyl)undecanoate (663 mg, Yield 72%).

reactant | Ethyl 11-[17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl]-2-(4,4,5,5,5-pentafluoropentyl)undecanoate | 1.43 mmol, 946 mg | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC=3C=C(C=CC3[C@H]1CC2)OC)CCCCCCCCCC(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C37H55F5O4
reactant | borane tribromide | [Br-].[Br-].[Br-].B
reactant | Water | O | H2O
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4.3 mmol, 4.3 ml | ClCCl | CH2Cl2
product | ethyl 11-[3,17β-dihydroxyestra-1,3,5(10)-trien-7α-yl]-2-(4,4,5,5,5-pentafluoropentyl)undecanoate | 663 mg, Yield 72% | OC1=CC=2C[C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O)CCCCCCCCCC(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C36H53F5O4
